US06313299B1
1-Cyclopropyl-6-fluoro-8-chloro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid
150 mg of 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-8-chloro-4-oxo-1,4-dihydro-3-quinolinecaboxylic acid was dissolved in 5 ml of dichloromethane and thereto 0.2 ml of trifluoroacetic acid was added dropwise. The mixture was stirred for 18 hours at room temperature, and thereto 10 ml of pyridine and 10 ml of water were added. It was distilled under the reduced pressure to remove dichloromethane and stirred for 1 hour. The precipitated solid was filtered and dried to give the titled compound(67 mg).

reactant | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-8-chloro-4-oxo-1,4-dihydro-3-quinolinecaboxylic acid | 150 mg | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=C2Cl)C2CC2)C(=O)O)=O)F | C25H28ClFN4O6
reactant | trifluoroacetic acid | 0.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-Cyclopropyl-6-fluoro-8-chloro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 67 mg, yield: 54.7% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)Cl)N1CC2(CNC2)C(C1)=NOC)F)=O)C(=O)O | C20H20ClFN4O4
